US07384931B2
(R)-N-(4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)-N′-cyano-4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamidine.
(R)-7-Amino-4-chloro-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one (115 mg, 345.6 mmol) was dissolved in N,N-dimethylformamide (5.0 mL). N,N-Diisopropylethylamine (200 μL, 1.1 mmol) was added to the mixture followed by diphenyl N-cyanocarbonimidate (94 mg, 382.7 μmol). Mixture stirred at room temperature for 40 minutes. 8-Fluoro-3-(piperidin-4-yl)quinolin-2(1H)-one hydrochloride (121 mg, 427.9 μmol) was added to the vessel with stirring. The mixture was heated to 60° C. and held with stirring for 54 hours. The mixture was warmed to 100° C. and with stirring held for 28 hours. Reaction was diluted with methanol. Mixture was purified by prep HPLC (acetonitrile-water-ammonium acetate). Acetonitrile was removed from the fractions by roto-vap. Remaining aqueous was diluted with water. Solids were filtered off and washed with water. Air was pulled through the filter cake for 1 hour. Solids were collected and dried in vacuo. Title compound was obtained as tan solid in 34% yield. 1H NMR (500 MHz, DMSO-D6) δ ppm 13.61 (s, 1 H) 11.82 (s, 1 H) 8.35 (s, 1 H) 7.80 (s, 1 H) 7.52 (dd, J=16.48, 7.63 Hz, 2 H) 7.32-7.39 (m, 1 H) 7.29 (s, 1 H) 7.08-7.19 (m, 1 H) 5.57-5.76 (m, 1 H) 5.40 (d, J=18.01 Hz, 1 H) 4.90 (d, J=17.40 Hz, 1 H) 4.59-4.79 (m, 1 H) 4.27 (d, J=12.82 Hz, 2 H) 4.01-4.17 (m, 1 H) 3.32-3.41 (m, 1 H) 2.98-3.25 (m, 4 H) 1.78-2.00 (m, 2 H) 1.42-1.71 (m, 2 H). High resolution MS m/e (M+H)+=629.1788.

reactant | (R)-7-Amino-4-chloro-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 345.6 mmol, 115 mg | N[C@@H]1CC2=C(C=3C=NNC3C(=C2)Cl)CN(C1=O)CC(F)(F)F | C13H12ClF3N4O
reactant | N,N-Diisopropylethylamine | 1.1 mmol, 200 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenyl N-cyanocarbonimidate | 382.7 μmol, 94 mg | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | 8-Fluoro-3-(piperidin-4-yl)quinolin-2(1H)-one hydrochloride | 427.9 μmol, 121 mg | Cl.FC=1C=CC=C2C=C(C(NC12)=O)C1CCNCC1
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | (R)-N-(4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)-N′-cyano-4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamidine | 34% yield | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)NC(=NC#N)N2CCC(CC2)C=2C(NC1=C(C=CC=C1C2)F)=O)=O)CC(F)(F)F | C29H25ClF4N8O2
